US05686486
3-(1,2-Diphenylethenyl)4-hydroxycoumarin
To a flame-dried flask containing a mixture of 650 mg of 4-hydroxycoumarin and 1.0 g of commercially available trans-stilbene oxide in 20 mL of dioxane under an argon atmosphere is added 2.5 mL of boron trifluoride etherate. The resulting yellow solution is left to stir at room temperature overnight. The volatiles are removed and the residue is partioned between diethyl ether and 1N sodium hydroxide. The basic aqueous phase is washed with diethyl ether and acidified to pH=1 with 6N hydrochloric acid. The resulting precipitant is repeatedly extracted with dichloromethane (methanol-chloroform co-solvents). The combined dichloromethane extracts are washed once with dilute sodium bicarbonate to remove most of the unreacted 4-hydroxycoumarin, then brine, dried (magnesium sulfate), and finally concentrated under reduced pressure. The residue is flash column chromatographed with 50% to 66% ethyl acetate in hexane to yield 880 mg of the title product as a white solid.

reactant | 4-hydroxycoumarin | 650 mg | OC1=CC(OC2=CC=CC=C12)=O | C9H6O3
reactant | trans-stilbene oxide | C=1C=CC(=CC1)[C@@H]2[C@H](O2)C=3C=CC=CC3 | C14H12O
reactant | boron trifluoride etherate | 2.5 mL | B(F)(F)F.CCOCC
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 3-(1,2-Diphenylethenyl)4-hydroxycoumarin | 880 mg | C1(=CC=CC=C1)C(=CC1=CC=CC=C1)C=1C(OC2=CC=CC=C2C1O)=O | C23H16O3
